*  HA-2520
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-2520 MacroModel
*  Rev: 8-01-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA2520  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=1.7943E+01
.MODEL DN D  IS=1.0714E-14    N=1.7943E+01
.MODEL DV D  IS=1.9894E-15  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                     Input Stage
*  Value of source VN models Vio and may be adjusted as desired.
VP 1 6 0
VN 2 7 4E-03
I1 8 0 1.9679E-07
FA 2 0 VN 3.1579E-02
DP 6 8 DP
DN 7 8 DN
FP 9 0 VP  1.6769E+04
FN 0 9 VN  1.5652E+04
GC 0 9 8 0 1.9433E-07
GPP 9 0 4 0 1.9433E-07
GPN 9 0 5 0 1.9433E-07
IRX 0 9 1.4394E-06
RT 9 0 1.0
*
*                 Poles
EP1 10 0 9 0 1.0
RP1 10 11 3.184E+01
CP1 11 0 1E-10
EP2 12 0 11 0 1.0
RP2 12 13 2.653E+01
CP2 13 0 1E-10
EP3 14 0 13 0 1.0
RP3 14 15 1.99E+01
CP3 15 0 1E-10
*
*                 Output Stage
G2 0 16 15 0 1.0
R2 16 0 6.5577E+02
CC 16 17 2.2E-11
GOL 17 0 16 0 7.3545E+01
RD 17 0 +90.0
DH 17 18 DV
DL 19 17 DV
*ECC 18 0 POLY 1  4 0 -2.7  1.0
BECC 18 0 V=-2.7+1.0*v(4,0)
*EEE 19 0 POLY 1  5 0 +2.9  1.0
BEEE 19 0 V=2.9+1.0*v(5,0)
IH 4 0 4.5E-03
IL 0 5 4.5E-03
GPS 20 0 17 3 0.9999E-01
DPH 4 20 DX
DPL 20 5 DX
D1 17 21 D1
D2 21 17 D2
*EX1 21 0 POLY 2  17 0 3 0 0.0   -8.9345E-01   +1.8897
BEX1 21 0 V=-8.9345E-01*v(17,0)+1.8897*v(3,0)
RO 17 3 +10.0
.ENDS HA2520