*  HA-2841
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-2841 MacroModel
*  Rev: 4-22-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA2841  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=1.7623E+01
.MODEL DN D  IS=7.7329E-15    N=1.7623E+01
.MODEL DV D  IS=1.0269E-15  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=9.8971E-01
.MODEL DX D  IS=1E-20  N=30.0
*
*                      Input Stage
*  Value of source VN models VIO and may be adjusted as desired.
*
VP 1 6 0
VN 2 7 1.30E-03
I1 8 0 7.9798E-06
FA 2 0 VN 5.8055E-01
DP 6 8 DP
DN 7 8 DN
C1 8 0 3.1293E-15     IC=-9.02199
FP 9 0 VP  7.0303E+02
FN 0 9 VN  9.0914E+02
GC 0 9 8 0 4.4083E-07
GPP 9 0 4 0 4.4814E-07
GPN 9 0 5 0 4.3562E-07
IRX 0 9 4.16498E-06
RT 9 0 1.0
*
*                 Poles and Zeros
ECP 10 0 9 0 1.0
RCP 10 11 8.8417E+02
LCP 11 12 3.1272E-06
CCP 12 13 1E-12
RXP 12 13 1E+07
VCP 13 0 0.0
FCZ 0 14 VCP  1.0
RCZ 14 15 7.7951E+02
LCZ 15 16 2.6374E-06
CCZ 16 0 1E-12
RXZ 16 0 1E+07
EP1 17 0 14 0 1.0
RP1 17 18 +3.184
CP1 18 0 1E-10
EP2 19 0 18 0 1.0
RP2 19 20 +3.0615
CP2 20 0 1E-10
EP3 21 0 20 0 1.0
RP3 21 22 +2.6533
CP3 22 0 1E-10
*
*                 Output Stage
G2 0 23 22 0 1.0
R2 23 0 6.5577E+02
CC 23 24 2.2000E-11
GOL 24 0 23 0 2.2332E+01
RD 24 0 2.7100E+02
DH 24 25 DV
DL 26 24 DV
*ECC 25 0 POLY 1  4 0 -3.7708  1.0
BECC 25 0 V=-3.7708+1.0*v(4,0)
*EEE 26 0 POLY 1  5 0 +2.7237  1.0
BEEE 26 0 V=2.7237+1.0*v(5,0)
IH 4 0 9.79497E-03
IL 0 5 9.8050E-03
GPS 27 0 24 3 4.0000E-02
DPH 4 27 DX
DPL 27 5 DX
D1 24 28 D1
D2 28 24 D2
*EX1 28 0 POLY 2  24 0 3 0 0.0   5.9483E-01   3.9758E-01
BEX1 28 0 V=5.9483E-01*v(24,0)+3.9758E-01*v(3,0)
RO 24 3 +25.0
.ENDS HA2841