*  HA-2842
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-2842 MacroModel
*  Rev: 4-22-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA2842  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=1.5939E+01
.MODEL DN D  IS=1.1539E-14    N=1.5939E+01
.MODEL DV D  IS=1.3801E-13  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                      Input Stage
*  Value of source VN models VIO and may be adjusted as desired.
*
VP 1 6 0
VN 2 7 1.0E-03
I1 8 0 9.9631E-06
FA 2 0 VN 5.3943E-02
DP 6 8 DP
DN 7 8 DN
C1 8 0 1.0454E-15     IC=-8.17099
FP 9 0 VP  9.0106E+02
FN 0 9 VN  7.8085E+02
GC 0 9 8 0 7.2049E-07
GPP 9 0 4 0 9.6184E-07
GPN 9 0 5 0 6.8126E-07
IRX 0 9 1.0096E-05
RT 9 0 1.0
*
*                 Poles and Zeros
ECP 10 0 9 0 1.0
RCP 10 11 1.0268E+03
LCP 11 12 2.9287E-06
CCP 12 13 1E-12
RXP 12 13 1E+07
VCP 13 0 0.0
FCZ 0 14 VCP  1.0
RCZ 14 15 7.9575E+02
LCZ 15 16 2.5330E-06
CCZ 16 0 1E-12
RXZ 16 0 1E+07
EP1 17 0 14 0 1.0
RP1 17 18 +4.088
CP1 18 0 1E-10
EP2 19 0 18 0 1.0
RP2 19 20 +3.5349
CP2 20 0 1E-10
EP3 21 0 20 0 1.0
RP3 21 22 +3.2774
CP3 22 0 1E-10
EP4 23 0 22 0 1.0
RP4 23 24 +3.2774
CP4 24 0 1E-10
*
*                Output Stage
G2 0 25 24 0 1.0
R2 25 0 6.5577E+02
CC 25 26 2.2000E-11
GOL 26 0 25 0 1.8755E+03
RD 26 0 +2.2218
DH 26 27 DV
DL 28 26 DV
*ECC 27 0 POLY 1  4 0 -3.0167  1.0
BECC 27 0 V=-3.0167+1.0*v(4,0)
*EEE 28 0 POLY 1  5 0 +1.9207  1.0
BEEE 28 0 V=1.9207+1.0*v(5,0)
IH 4 0 1.4180E-02
IL 0 5 1.4191E-02
GPS 29 0 26 3 1.1325E-01
DPH 4 29 DX
DPL 29 5 DX
D1 26 30 D1
D2 30 26 D2
*EX1 30 0 POLY 2  26 0 3 0 0.0   4.4070E-01   5.5831E-01
BEX1 30 0 V=4.4070E-01*v(26,0)+5.5831E-01*v(3,0)
RO 26 3 +8.83013
.ENDS HA2842