*  HA-2850
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-2850 MacroModel
*  Rev: 4-22-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA2850  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=2.3872
.MODEL DN D  IS=1.3117E-14    N=2.3872
.MODEL DV D  IS=1.6146E-13  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                      Input Stage
*  Value of source VN models VIO and may be adjusted as desired.
*
VP 1 6 0
VN 2 7 5.9E-04
I1 8 0 -4.8904E-06
FA 2 0 VN -2.856998E-01
DP 8 6 DP
DN 8 7 DN
C1 8 0 1.0981E-17     IC=-1.1758
FP 9 0 VP  2.0034E+03
FN 0 9 VN  1.5279E+03
GC 0 9 8 0 2.7311E-06
GPP 9 0 4 0 3.4326E-06
GPN 9 0 5 0 3.8529E-06
IRX 0 9 -3.0927E-06
RT 9 0 1.0
*
*                Poles and Zeros
EZZ 10 0 9 0 1.0
VZZ 10 11 0.0
CZZ 11 0 1E-12
RZZ 11 0 1E+07
FCZ 0 12 VZZ  1.0
RCZ 12 13 1.7407E+01
LCZ 13 14 6.1841E-08
CCZ 14 0 1E-12
RXZ 14 0 1E+07
EP1 15 0 12 0 1.0
RP1 15 16 +7.2967
RZ1 16 17 -1.99
CP1 17 0 1E-10
EP2 18 0 16 0 1.0
RP2 18 19 +4.5486
CP2 19 0 1E-10
EP3 20 0 19 0 1.0
RP3 20 21 +3.98
CP3 21 0 1E-10
*
*                Output Stage
G2 0 22 21 0 1.0
R2 22 0 6.5577E+02
CC 22 23 2.2000E-11
GOL 23 0 22 0 2.0104E+03
RD 23 0 6.07E-01
DH 23 24 DV
DL 25 23 DV
*ECC 24 0 POLY 1  4 0 -2.4167  1.0
BECC 24 0 V=-2.4167+1.0*v(4,0)
*EEE 25 0 POLY 1  5 0 +2.5203  1.0
BEEE 25 0 V=2.5203+1.0*v(5,0)
IH 4 0 7.5422E-03
IL 0 5 7.5382E-03
GPS 26 0 23 3 2.6302E-02
DPH 4 26 DX
DPL 26 5 DX
D1 23 27 D1
D2 27 23 D2
*EX1 27 0 POLY 2  23 0 3 0 0.0   7.8568E-01   2.1269E-01
BEX1 27 0 V=7.8568E-01*v(23,0)+2.1269E-01*v(3,0)
RO 23 3 3.80195E+01
.ENDS HA2850