*  HA-5102
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
* HA-5102 Macro Model
*
* Rev: 8/8/91  DL Youngblood
* The schematic for this rev is the same as 11/03/89.  The subcircuit
* call is different and only 1 amp is present.
* pinout changed to conform to "standard"
*
* Actual chip Icc/Iee will have 2 amplifiers + 1mA
*
* Connections:
*               Non-Inverting Input
*               |  Inverting Input
*               |  |  Positive Power Supply
*               |  |  |  Negative Power Supply
*               |  |  |  |   Output
*               |  |  |  |   |
.SUBCKT HA5102  6  7  9  10  8
.MODEL DP D  IS=1E-14  N=9.6204E-01
.MODEL DN D  IS=1.0012E-14 N=9.6204E-01
.MODEL DV D  IS=1E-14  N=.1
.MODEL D1 D  IS=1E-14  N=1
.MODEL D2 D  IS=1E-14  N=9.8914E-01
*
* Input Stage
*
VP 6 12 0
DP 12 1 DP
*
* The value of source "VIO" represents offset voltage
* and may be changed to simulate worst case if desired
*
VIO 7 13 2.2845E-04
*
DN 13 1 DN
FA 7 0 VIO 9.7559E-02
I1 1 0 5.1342E-08
C1 1 0 2.6360E-16 IC=-3.6478E-01
FP 4 0 VP  9.7214E+02
FN 0 4 VIO  9.7098E+02
GC 0 4 1 0 1.0090E-08
GPP 0 4 9 46 9.9726E-10
GPN 0 4 47 10 1.4492E-08
RT 4 0 1.0
VPP 46 0 1.5E+01
RPP 46 0 1K
VPN 0 47 1.5E+01
RPN 0 47 1K
*
* General Poles
*
EP1 14 0 4 0 1.0
RP1 14 15 4.5768E+01
CP1 15 0 1.0E-10
EP2 16 0 15 0 1.0
RP2 16 17 2.4966E+01
CP2 17 0 1.0E-10
EP3 18 0 17 0 1.0
RP3 18 19 1.8702E+01
CP3 19 0 1.0E-10
EP4 20 0 19 0 1.0
RP4 20 21 1.4508E+01
CP4 21 0 1.0E-10
EP5 22 0 21 0 1.0
RP5 22 23 1.2762E+01
CP5 23 0 1.0E-10
*
* General Zeroes
*
GZ1 0 24 23 0 1.4852E-02
VZ01 24 25 0.0
HZ1 25 26 VZ01   6.7333E+01
LZ1 26 0 1.0E-6
GZ2 0 27 24 0 8.5174E-03
VZ02 27 28 0.0
HZ2 28 29 VZ02   1.1741E+02
LZ2 29 0 1.0E-6
GZ3 0 30 27 0 2.0450E-03
VZ03 30 31 0.0
HZ3 31 32 VZ03   4.8900E+02
LZ3 32 0 1.0E-6
GZ4 0 33 30 0 1.6037E-03
VZ04 33 34 0.0
HZ4 34 35 VZ04   6.2354E+02
LZ4 35 0 1.0E-6
*
* Complex Pole
*
ECP 43 0 33 0 1.0
RCP 43 44 2.4045E+04
LCP 44 45 1.4988E-04
CCPX 45 0 1.0E-12
*
* Gain/Output Stage
*
G2 0 2 45 0 1.0
R2 2 0 8.9835E+05
CC 2 3 2.2000E-11
GOL 3 0 2 0 6.1330E+01
RD 3 0 4.6980E+00
DH 3 5 DV
DL 48 3 DV
VH 9 5 1.607
VL 48 10  1.5986
IH 9 0 1.0E-03
IL 0 10 1.0E-03
D1 3 51 D1
D2 51 3 D2
*EX1 51 0 POLY  2  3 0 3 8 0  1  -4.0840E-01
BEX1 51 0 V=1*v(3,0)-4.0840E-01*v(3,8)
RO 52 8 1.0611E+02
VIS 3 52 0
FI 0 53 VIS 1
DIP 53 54 DV
DIN 56 55 DV
VIP 54 56 0
VIN 55 53 0
RI 56 0 1.0
FIP 9 0 VIP 1.0
FIN 0 10 VIN 1.0
.ENDS HA5102