*  HA-5112
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
* HA-5112 Macro Model
*
* Rev:  8/8/91 DLYoungblood
* The schematic for this rev is the same as 11/03/89
* The subcircuit call is different and only 1 amp is present
* Actual chip Icc/Iee will have 2 amplifiers + 1mA
* pinout changed to conform to "standard"
*
* Connections:
*               Non-Inverting Input
*               |  Inverting Input
*               |  |  Positive Power Supply
*               |  |  |  Negative Power Supply
*               |  |  |  |   Output
*               |  |  |  |   |
.SUBCKT HA5112  6  7  9  10  8
.MODEL DP D  IS=1E-14  N=7.4847E-01
.MODEL DN D  IS=8.9347E-15 N=7.4847E-01
.MODEL DV D  IS=1E-14  N=.1
.MODEL D1 D  IS=1E-14  N=1
.MODEL D2 D  IS=1E-14  N=9.8914E-01
*
* Input Stage
*
VP 6 12 0
DP 12 1 DP
*
* The value of source "VIO" represents offset voltage
* and may be changed to simulate worst case if desired
*
VIO 7 13 2.2845E-04
*
DN 13 1 DN
FA 7 0 VIO 9.7559E-02
I1 1 0 4.8579E-08
C1 1 0 3.7600E-16             IC=-2.8380E-01
FP 4 0 VP  6.4861E+03
FN 0 4 VIO  7.2595E+03
GC 0 4 1 0 8.6533E-08
GPP 0 4 9 46 8.5523E-09
GPN 0 4 47 10 1.2428E-07
RT 4 0 1.0
VPP 46 0 1.5E+01
RPP 46 0 1K
VPN 0 47 1.5E+01
RPN 0 47 1K
*
* General Poles
*
EP1 14 0 4 0 1.0
RP1 14 15 1.5422E+02
CP1 15 0 1.0E-10
EP2 16 0 15 0 1.0
RP2 16 17 4.6010E+01
CP2 17 0 1.0E-10
EP3 18 0 17 0 1.0
RP3 18 19 2.4832E+01
CP3 19 0 1.0E-10
EP4 20 0 19 0 1.0
RP4 20 21 1.4510E+01
CP4 21 0 1.0E-10
EP5 22 0 21 0 1.0
RP5 22 23 1.1908E+01
CP5 23 0 1.0E-10
*
* General Zeroes
*
GZ1 0 24 23 0 1.5909E-02
VZ01 24 25 0.0
HZ1 25 26 VZ01   6.2857E+01
LZ1 26 0 1.0E-6
GZ2 0 27 24 0 4.0668E-03
VZ02 27 28 0.0
HZ2 28 29 VZ02   2.4589E+02
LZ2 29 0 1.0E-6
*
* Complex Zero
*
GCZ 0 30 27 0 1.0
LCZ 30 31 1.0E-6
CC1Z 31 32 1.1755E-11
HCZ 32 33 VCZ1   4.4739E+02
VCZ1 33 0 0.0
RBIG1 30 0 1.0E+7
ECZ 34 0 30 0 1.0
VCZ2 34 35 0.0
CC2Z 35 0 1.1755E-11
RBIG2 35 0 1.0E+7
FC1Z 0 36 VCZ2    1.0
RCZ 36 0 1.0
*
* Complex Pole
*
ECP 37 0 36 0 1.0
RCP 37 38 7.9230E+03
LCP 38 39 4.4779E-05
CCPX 39 0 1.0E-12
*
* Gain/Output Stage
*
G2 0 2 39 0 1.0
R2 2 0 1.0475E+05
CC 2 3 2.2000E-11
GOL 3 0 2 0 6.3619E+01
RD 3 0 4.5290E+00
DH 3 5 DV
DL 50 3 DV
VH 9 5 1.607
VL 50 10 1.5986
IH 9 0 1.0E-3
IL 0 10 1.0E-03
D1 3 53 D1
D2 53 3 D2
*EX1 53 0 POLY  2  3 0 3 8 0  1  -4.0500E-01
BEX1 53 0 V=1*v(3,0)-4.0500E-01*v(3,8)
RO 54 8 1.0628E+02
VIS 3 54 0
FI 0 55 VIS 1
DIP 55 56 DV
DIN 58 57 DV
VIP 56 58 0
VIN 57 55 0
RI 58 0 1.0
FIP 9 0 VIP 1.0
FIN 0 10 VIN 1.0
.ENDS HA5112